US06197959B1
A solution of 0.200 g (0.266 mmol) of crude (3R,4R)-3-[1-(3-methanesulfonyloxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester in 1.8 ml of absolute N,N-dimethylformamide was treated with 0.025 g (0.398 mmol, 1.5 equiv.) of anhydrous sodium azide, and stirred for 45 min. at 50° C. The reaction mixture was then poured into 50 ml of an ice/water mixture and extracted three times with 50 ml of ethyl acetate. The combined organic phases were washed twice with 20 ml of water, evaporated under reduced pressure and dried in a high vacuum. The thus-obtained crude product was purified by chromatography on silica gel using a 3:1 mixture of hexane and ethyl acetate as the eluent and yielded 0.162 g (0.231 mmol, 86.8% of theory) of (3R,4R)-3-[1-(3-azido-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a light yellow oil; MS: 700 (M+H)+.

reactant | (3R,4R)-3-[1-(3-methanesulfonyloxy-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.266 mmol, 0.200 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCCOS(=O)(=O)C | C41H56N2O9S
reactant | sodium azide | 0.398 mmol, 0.025 g, 1.5 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
product | (3R,4R)-3-[1-(3-azido-propyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.231 mmol, 0.162 g, 86.8% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCCN=[N+]=[N-] | C40H53N5O6
